US08044041B2
(6-Bromo-phthalazin-1-yl)-dimethyl-amine
A solution of 6-bromo-1-chloro-phthalazine (2 g) and dimethylamino (8 mL, 2M solution in THF) in DMF (30 mL) was stirred at 85° C. for 3 h. The reaction was then diluted with ethyl acetate (100 mL) and washed with water (2×100 mL), and brine (100 mL). Column chromatography (Hexanes/EtOAc) afforded the desired product (1.0 g) as a brown solid. TLC Rf 0.3 (EA). 1H-NMR (CDCl3) δ: 3.21 (s, 6H), 7.86 (dd, 1H), 7.95 (d, 1H), 7.99 (d, 1H), 8.99 (s, 1H).

reactant | 6-bromo-1-chloro-phthalazine | 2 g | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (6-Bromo-phthalazin-1-yl)-dimethyl-amine | 1.0 g | BrC=1C=C2C=NN=C(C2=CC1)N(C)C | C10H10BrN3
